US07030118B2
E) 3-Benzyl-2-formyl-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazine-5-carboxylic acid methyl ester
Sodium periodate (0.52 g, 2.4 mmol) was added to pH 7 buffer solution (2.5 ml) of 3-benzyl-2-(2-dimethylamino-vinyl)-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazine-5-carboxylic acid methyl ester (0.17 g, 0.48 mmol) in THF (3.0 mL) at room temperature. The reaction mixture was stirred at room temperature for 1 h. The reaction mixture was filtered through Celite® and the solids were washed with EtOAc (30 mL). The filtrate was washed with saturated NaCl (2×30 ml), dried (Na2SO4), filtered and concentrated in vacuo to afford the titled compound as a solid (0.15 g, 100%): 1H NMR (CDCl3) δ 9.41 (s, 1H), 7.16–7.40 (m, 7H), 5.68 (s, 2H), 3.88 (s, 3H); MS (ESI+) 312 (M++H).

reactant | Sodium periodate | 2.4 mmol, 0.52 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | 3-benzyl-2-(2-dimethylamino-vinyl)-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazine-5-carboxylic acid methyl ester | 0.48 mmol, 0.17 g | COC(=O)C=1C=CN2N=C(N(C(C21)=O)CC2=CC=CC=C2)C=CN(C)C | C19H20N4O3
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
product | 3-Benzyl-2-formyl-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazine-5-carboxylic acid methyl ester | 0.15 g, 100% | COC(=O)C=1C=CN2N=C(N(C(C21)=O)CC2=CC=CC=C2)C=O | C16H13N3O4
